US09302989B2
5-(hydroxymethyl)-N-(4-phenylbutyl)-1,3-dihydro-2H-isoindole-2-carboxamide
The title compound was prepared as described in Example 1A, substituting (4-isocyanatobutyl)benzene for methyl 4-isocyanatobenzoate and isoindolin-5-ylmethanol hydrochloride for isoindoline. 1H NMR (300 MHz, DMSO-d6) δ ppm 7.32-7.12 (m, 8H), 6.32-6.24 (m, 1H), 5.16 (t, J=5.6 Hz, 1H), 4.54 (bs, 4H), 4.49 (d, J=5.7 Hz, 2H), 3.14-3.05 (m, 2H), 2.64-2.54 (m, 2H), 1.63-1.39 (m, 4H); MS (ESI(+)) m/e 325 (M+H)+.

reactant | methyl 4-isocyanatobenzoate | N(=C=O)C1=CC=C(C(=O)OC)C=C1 | C9H7NO3
reactant | isoindolin-5-ylmethanol hydrochloride | Cl.C1NCC2=CC(=CC=C12)CO
reactant | isoindoline | C1NCC2=CC=CC=C12 | C8H9N
product | 5-(hydroxymethyl)-N-(4-phenylbutyl)-1,3-dihydro-2H-isoindole-2-carboxamide | OCC=1C=C2CN(CC2=CC1)C(=O)NCCCCC1=CC=CC=C1 | C20H24N2O2
